US04150139
By a procedure similar to that described in Example 17, 9-methoxy-3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine was reacted with m-chloroperbenzoic acid to obtain 9-methoxy-3-methylsulfinyl-11H-s-triazolo[3,4-b][3]benzazepine. Colorless needles (as recrystallized from methanol), m.p. 176°-177° C.

reactant | 9-methoxy-3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine | COC1=CC2=C(C=CN3C(C2)=NN=C3SC)C=C1 | C13H13N3OS
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 9-methoxy-3-methylsulfinyl-11H-s-triazolo[3,4-b][3]benzazepine | COC1=CC2=C(C=CN3C(C2)=NN=C3S(=O)C)C=C1 | C13H13N3O2S
